### PR TITLE
[Merged by Bors] - feat(Matroid): all bases of a finitary matroid have the same cardinality

### PR DESCRIPTION
**Pull request by alreadydone**
Co-authored-by: Peter Nelson <apnelson@uwaterloo.ca>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matroid/Finitary.lean
Comment (apnelson1) [inline Mathlib/Data/Matroid/Finitary.lean:1]:
```
variable {α : Type*} {M : Matroid α} {I B B' : Set α} [M.Finitary]

open Cardinal Set

namespace Matroid

theorem Base.cardinalMk_eq_of_finitary  (hB : M.Base B) (hB' : M.Base B') : #B = #B' := by
  wlog hge : #B' ≤ #B with aux
  · exact (aux hB' hB (not_le.1 hge).le).symm 
  refine hge.antisymm' ?_ 
  by_cases h : B'.Finite
  · rw [← cast_ncard h, ← cast_ncard (hB'.finite_of_finite h hB), hB.ncard_eq_ncard_of_base hB']
  rw [← Set.Infinite, ← infinite_coe_iff] at h
  have (a : α) (ha : a ∈ B' \ B) : ∃ S : Set α, Finite S ∧ S ⊆ B ∧ ¬ M.Indep (insert a S) := by
    have := (hB.insert_dep ⟨hB'.subset_ground ha.1, ha.2⟩).1
    contrapose! this
    exact Finitary.indep_of_forall_finite _ fun J hJ fin ↦ (this (J \ {a}) fin.diff.to_subtype <|
      diff_singleton_subset_iff.mpr hJ).subset (subset_insert_diff_singleton ..)
  choose S S_fin hSB dep using this
  let U := (B ∩ B') ∪ ⋃ a : ↥(B' \ B), S a a.2
  suffices B ⊆ U from
    (mk_le_mk_of_subset this).trans <| (mk_union_le ..).trans <|
      (add_le_add (mk_le_mk_of_subset inter_subset_right) <| (mk_iUnion_le _).trans <| mul_le_mul'
        (mk_le_mk_of_subset diff_subset) <| ciSup_le' fun _ ↦ (lt_aleph0_of_finite _).le).trans <|
    by rw [mul_aleph0_eq (aleph0_le_mk _), add_eq_self (aleph0_le_mk _)]
  have hUB : U ⊆ B := union_subset inter_subset_left (iUnion_subset fun a ↦ hSB a a.2)
  by_contra hBU
  have ⟨a, ha, ind⟩ := hB.exists_insert_of_ssubset ⟨hUB, hBU⟩ hB'
  have : a ∈ B' \ B := ⟨ha.1, fun haB ↦ ha.2 (.inl ⟨haB, ha.1⟩)⟩
  refine dep a this (ind.subset <| insert_subset_insert <| .trans ?_ subset_union_right)
  exact subset_iUnion_of_subset ⟨a, this⟩ subset_rfl

theorem Indep.cardinalMk_le_base_of_finitary (hI : M.Indep I) (hB : M.Base B) : #I ≤ #B := by
  obtain ⟨B', hB', hIB'⟩ := hI.exists_base_superset
  rw [← hB'.cardinalMk_eq_of_finitary hB]
  exact mk_le_mk_of_subset hIB'
  
end Matroid
```

Comment (apnelson1) [reply Mathlib/Data/Matroid/Finitary.lean:1]: Golfed slightly to avoid the private theorem, and added an independence/base version. 

But also I think that conceptually, this belongs in a 'Cardinality + Rank'-type file rather than `Finitary`. For instance, a TODO is to prove Higgs' result that if the generalized continuum hypothesis holds, then all bases are equicardinal, and that would belong in the same file as this. One could generalize things to the cardinality-valued rank of arbitrary sets, etc etc. 

Perhaps call the file `Matroid.Rank.Cardinal`? (`Matroid.Rank.Basic` is coming in a future PR).

**Review by apnelson1 — COMMENTED** [review]
This is a great result to have!

I think that conceptually, this belongs in a 'Cardinality + Rank'-type file rather than `Finitary`. For instance, a TODO is to prove Higgs' result that if the generalized continuum hypothesis holds, then all bases of any matroid are equicardinal, and that would belong in the same file as this. One could generalize things to the cardinality-valued rank of arbitrary sets, etc etc. 

Perhaps call the file `Matroid.Rank.Cardinal`? (`Matroid.Rank.Basic` is coming in a future PR).

File: Mathlib/Data/Matroid/Finitary.lean
Comment (alreadydone) [reply Mathlib/Data/Matroid/Finitary.lean:1]: Thanks! Adding you as an author. The file has been renamed too.

**Comment by jcommelin** [comment]
bors d=apnelson1

**Comment by apnelson1** [comment]
Bors r+
